US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(4-nitrobenzylidene)thiosemicarbazide
The title compound was prepared from a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (100 mg, 0.56 mmol) and 4-nitrobenzaldehyde (85 mg, 0.56 mmol) similar to Example 3 and isolated as a yellow solid (84 mg, 47%). 1H NMR (CDCl3): 9.80 (s, 1H), 8.28 (d, J=9.0 Hz, 2H), 7.90 (s, 1H), 7.78 (d, J=8.7 Hz, 2H), 7.47 (d, J=7.2 Hz, 1H), 6.26-6.14 (m, 2H), 4.30-4.26 (m, 1H), 3.08 (s, 1H), 2.99 (s, 1H), 1.96-1.89 (m, 1H), 1.70 (d, J=9.0 Hz, 1H), 1.51 (d, J=9.0 Hz, 1H), 1.47-1.41 (m, 1H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.56 mmol, 100 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | 4-nitrobenzaldehyde | 0.56 mmol, 85 mg | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(4-nitrobenzylidene)thiosemicarbazide | C12C(CC(C=C1)C2)NC(NN=CC2=CC=C(C=C2)[N+](=O)[O-])=S | C15H16N4O2S
